US05717100
3-[5-(4-FLUOROPHENYL)-4-PYRIDIN-4-YL-1H-IMIDAZOL-2-YL]-1-ACETYLPIPERIDINE
To a stirring solution of 3-[5-(4-fluorophenyl)-4-pyridin-4-yl-1H-imidazol-2-yl]piperidine dihydrochloride (0.76 mmol, 0.3 g) in THF (5.0 mL) was added triethylamine (3.3 mmol, 0.33 g) and acetyl chloride (2.3 mmol, 0.18 g). The reaction was stirred at room temperature for 1 h. diluted with 10% KHSO4 (50 mL) and extracted with ethyl acetate (2×50 mL). The organics were combined, washed with brine, dried over anhydrous sodium sulfate and evaporated under reduced pressure. The residue was chromatographed over silica, eluting with 3% MeOH:CH2Cl2. The pure fractions were collected and evaporated under reduced pressure. The resulting film was evaporated from CH2Cl2 : hexanes to give 0.2 g of the title compound as a white foam. Anal; Calcd for C21H21N4 OF.0.75H2O.0.25 hexanes: C 67.65, H 6.56, N 14.02; Found: C 67.72, H 6.30, N 13.91.

reactant | 3-[5-(4-fluorophenyl)-4-pyridin-4-yl-1H-imidazol-2-yl]piperidine dihydrochloride | 0.76 mmol, 0.3 g | Cl.Cl.FC1=CC=C(C=C1)C1=C(N=C(N1)C1CNCCC1)C1=CC=NC=C1
reactant | triethylamine | 3.3 mmol, 0.33 g | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 2.3 mmol, 0.18 g | C(C)(=O)Cl | C2H3ClO
solvent | THF | 5.0 mL | C1CCOC1 | C4H8O
solvent | KHSO4 | 50 mL | OS(=O)(=O)[O-].[K+]
product | 3-[5-(4-FLUOROPHENYL)-4-PYRIDIN-4-YL-1H-IMIDAZOL-2-YL]-1-ACETYLPIPERIDINE | 0.2 g | FC1=CC=C(C=C1)C1=C(N=C(N1)C1CN(CCC1)C(C)=O)C1=CC=NC=C1 | C21H21FN4O
